US05298507
2-Nitromethyleneimidazolidine (12.9 g) was dissolved in dry dimethylformamide (100 ml), and at room temperature 60% oily sodium hydride (4.4 g) was added. The mixture was stirred at room temperature until the generation of hydrogen ceased. Then 2-methyl-5-pyrazinylmethyl chloride (14.3 g) was added at room temperature, and the mixture was stirred at 40° C. for 8 hours. After cooling to room temperature, the reaction mixture was added to 200 ml of water, and extracted with dichloromethane. On distilling off dichloromethane from the organic layer under reduced pressure, 1-(2-methyl-5-pyrazinylmethyl)-2-(nitromethylene)imidazolidine (5.4 g) was obtained as yellow crystals having a melting point of 163° to 166° C.

reactant | 2-Nitromethyleneimidazolidine | 12.9 g | [N+](=O)([O-])C=C1NCCN1 | C4H7N3O2
reactant | sodium hydride | 4.4 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 2-methyl-5-pyrazinylmethyl chloride | 14.3 g | CC1=NC=C(N=C1)CCl | C6H7ClN2
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | 200 ml | O | H2O
product | 1-(2-methyl-5-pyrazinylmethyl)-2-(nitromethylene)imidazolidine | 5.4 g | CC1=NC=C(N=C1)CN1C(NCC1)=C[N+](=O)[O-] | C10H13N5O2
